US05482974
To a solution of 2-fluoro-6-chlorobenzonitrile (10.35 g, 66.5 mmol) in 1,2-dimethoxyethane (50 mL) at 0° C. was added potassium t-butoxide (9.06 g, 80.7 mmol). The mixture was slowly allowed to warm to room temperature over 3 h. The reaction was poured into water and extracted with ether (3 times). The organic layers were washed with brine, dried (MgSO4) and concentrated to afford 13.52 g (97%) of 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzonitrile as a pale yellow oil.

reactant | 2-fluoro-6-chlorobenzonitrile | 66.5 mmol, 10.35 g | FC1=C(C#N)C(=CC=C1)Cl | C7H3ClFN
reactant | potassium t-butoxide | 80.7 mmol, 9.06 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | 1,2-dimethoxyethane | 50 mL | COCCOC | C4H10O2
product | 2-[(1,1-dimethylethyl)oxy]-6-chlorobenzonitrile | 13.52 g, 97% | CC(C)(C)OC1=C(C#N)C(=CC=C1)Cl | C11H12ClNO
